US04695673
2-(4'-Chlorobenzoyl)-5,5-dimethyl-1,3-cyclohexanedione
5,5-dimethylcyclohexane-1,3-dione (7.01 g, 0.05 mole), acetonitrile (80 ml), and triethylamine (21 ml, 0.15 mole) were combined in a flask, and placed under a nitrogen atmosphere. A solution of 4-chlorobenzoyl chloride (6.4 ml, 0.05 mole) in acetonitrile (20 ml) was added over 15 inutes while stirring and cooling with an ambient temperature water bath. Trimethylsilyl cyanide (0.33 ml, 2.55 mmole) was added, and the reaction was heated and stirred at 40° C. for 3 hours whereupon the reaction was complete.

reactant | 5,5-dimethylcyclohexane-1,3-dione | 0.05 mole, 7.01 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | triethylamine | 0.15 mole, 21 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.05 mole, 6.4 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | Trimethylsilyl cyanide | 2.55 mmole, 0.33 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 2-(4'-Chlorobenzoyl)-5,5-dimethyl-1,3-cyclohexanedione | ClC1=CC=C(C(=O)C2C(CC(CC2=O)(C)C)=O)C=C1 | C15H15ClO3
